US07375115B2
3-[1-(Triethylsiloxymethyl)cyclohexyl]propan-1-ol
To a solution of [1-(allylcyclohexyl)methoxy]triethylsilane (1.70 g) in tetrahydrofuran (35 mL) were added a 2M borane-methyl sulfide complex solution in tetrahydrofuran (6.48 mL, 12.96 mmol) under ice cooling. The solution was stirred under ice cooling for 2 hours. To this were then added water, a 3N aqueous sodium hydroxide solution (6.5 mL) and 30% hydrogen peroxide (6.5 mL). The solution was stirred at room temperature for 16 hours. Water was added and the solution was extracted with ethyl acetate. The organic layer was washed in turn with water and saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The resulting residue was purified by column chromatography (silica gel, hexane:ethyl acetate=7:3) to give the title compound (810 mg).

reactant | [1-(allylcyclohexyl)methoxy]triethylsilane | 1.70 g | C(C=C)C1(CCCCC1)CO[Si](CC)(CC)CC | C16H32OSi
reactant | water | O | H2O
reactant | sodium hydroxide | 3N, 6.5 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 6.5 mL | OO | H2O2
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 12.96 mmol, 6.48 mL | O1CCCC1 | C4H8O
product | 3-[1-(Triethylsiloxymethyl)cyclohexyl]propan-1-ol | 810 mg | C(C)[Si](OCC1(CCCCC1)CCCO)(CC)CC | C16H34O2Si
